US04025632
A solution of 1-(p-chlorobenzamido)pyridinium internal salt (20 parts) in p-chlorobenzoyl chloride was allowed to stand for two hours at 25° C. The crystalline solid which formed was filtered off, washed and dried to give 1-(bis(p-chlorobenzoyl)amino)pyridinium chloride (20 parts), melting point 195° C.

reactant | 1-(p-chlorobenzamido)pyridinium | ClC1=CC=C(C(=O)N[N+]2=CC=CC=C2)C=C1
solvent | p-chlorobenzoyl chloride | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
product | 1-(bis(p-chlorobenzoyl)amino)pyridinium chloride | [Cl-].ClC1=CC=C(C(=O)N([N+]2=CC=CC=C2)C(C2=CC=C(C=C2)Cl)=O)C=C1 | InChI=1S/C19H13Cl2N2O2.ClH/c20-16-8-4-14(5-9-16)18(24)23(22-12-2-1-3-13-22)19(25)15-6-10-17(21)11-7-15;/h1-13H;1H/q+1;/p-1
